data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_25183_0,[C@@:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][H:7])=[O:6])([O:5][H:8])[H:9]>>[C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[O:6])[H:9])([O:4][H:7])[O:5][H:8],60.71878249997056
MR_262246_0,[C:1]([N:2](/[C:4](=[N:6]/[N:3]([H:8])[H:9])[H:10])[O:5][H:7])([H:11])([H:12])[H:13]>>[C:1]([N:2]1[C@@:4]([O:5][H:7])([H:10])[N:6]1[N:3]([H:8])[H:9])([H:11])([H:12])[H:13],47.38440749996485
MR_247333_1,[C:1]([C:2]([C:4]([O:7][H:11])=[O:8])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:5][H:10])[O:6][H:9]>>[C:1]([C:2]([C:4]([C:3]([H:14])([H:15])[H:16])([O:7][H:11])[O:8][H:10])([H:12])[H:13])(=[O:5])[O:6][H:9],71.48605499996577
MR_193004_0,[C:1]([N:2](/[C:3](=[N:4]/[H:8])[C:5]([H:9])([H:13])[H:14])[O:6][H:7])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3]([N:4]([H:8])[H:9])=[C:5]([H:13])[H:14])[O:6][H:7])([H:10])([H:11])[H:12],65.41687500002254
MR_147750_0,[C:1](/[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[H:12])=[N:7]\[H:10])(=[C:6](\[C:3]([H:16])([H:17])[H:18])[O:8][H:9])[H:11]>>[C:1](/[C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[H:9])=[N:7]\[H:10])([C:6]([C:3]([H:16])([H:17])[H:18])=[O:8])([H:11])[H:12],44.838012499973416
MR_43564_0,[C:1]([C:3]([C:2]([N:4]([H:8])[H:9])([H:12])[H:13])=[O:6])([O:5][H:7])([H:10])[H:11]>>[C:1]([C@:2]([C:3](=[O:6])[H:13])([N:4]([H:8])[H:9])[H:12])([O:5][H:7])([H:10])[H:11],54.6696825000123
MR_323481_1,[C:1]1([C:4]([H:18])([H:19])[H:20])([O:8][H:11])[C:3]([H:16])([H:17])[C:2]([C:5]([H:21])([H:22])[H:23])([O:9][H:12])[C:6]1([N:7]([H:14])[H:15])[O:10][H:13]>>[C:1]([C:3]([C:2]([C:5]([H:21])([H:22])[H:23])([O:9][H:12])[H:13])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:6]([N:7]([H:14])[H:15])=[O:10])[O:8][H:11],58.225725000094144
MR_494448_0,[N:1]([C:2](=[O:5])[H:8])([O:3][O:4][H:6])[H:7]>>[N:1](=[C:2](/[O:5][O:3][O:4][H:6])[H:8])\[H:7],66.97307500001713
MR_44483_2,[C:1]([C:2](=[C:4]([H:11])[H:12])[H:8])(=[C:3]([H:9])[H:10])[O:5][O:6][H:7]>>[C:1]([C:2](=[C:4]([H:11])[H:12])[H:8])([C:3]([O:6][H:7])([H:9])[H:10])=[O:5],35.3483299999985
MR_150893_0,[C@:1]([C@:2]([C:3]([H:15])([H:16])[H:17])([N:5]([H:13])[H:14])[H:12])([C:4]([O:6][H:9])=[O:8])([O:7][H:10])[H:11]>>[C@@:1]1([O:7][H:10])([H:11])[C@@:4]([C@:2]([C:3]([H:15])([H:16])[H:17])([N:5]([H:13])[H:14])[H:12])([O:6][H:9])[O:8]1,68.00405749998234
MR_594552_1,[C:1]([C:5]1=[N:8][C:4]2([C:3]([O:6][H:10])=[O:9])[N:2]([H:11])[N:7]21)([H:12])([H:13])[H:14]>>[C:1]([c:5]1[n:7][n:2]([H:11])[c:4]([C:3]([O:6][H:10])=[O:9])[n:8]1)([H:12])([H:13])[H:14],18.407085000003605
MR_525623_2,[C:1]1([C:3]([H:16])([H:17])[H:18])([H:10])[C:5](=[C:7]([H:19])[H:20])[C:6]1([N:8]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:9])[H:11])[H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:5]([C:4]([C:2]([H:13])([H:14])[H:15])=[O:9])=[C:7]([H:19])[H:20])(/[C:6](=[N:8]\[H:11])[H:12])[H:10],72.40157750000847
MR_23165_0,[C:1](/[C:2]([O:3][H:5])=[N:4]/[H:6])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:5])[N:4]([H:6])[H:9])([H:7])[H:8],69.28415750001413
MR_185801_2,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]1([C:6]([C:2]([H:12])([H:13])[H:14])=[C:8]([H:20])[H:21])[C:5](=[C:7]([H:15])[H:16])[O:9]1)([H:10])[H:11]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([C:5]([C:6]([C:2]([H:12])([H:13])[H:14])=[C:8]([H:20])[H:21])=[C:7]([H:15])[H:16])=[O:9])([H:10])[H:11],63.22250749999839
MR_611961_0,[C:1]1([O:4][H:8])([O:5][H:9])[C:2]([H:10])=[C:3]([H:11])[N:7]=[N:6]1>>[C:1]1([O:4][H:8])=[C:2]([H:10])[C:3]([O:5][H:9])([H:11])[N:7]=[N:6]1,66.41020750001147
MR_289293_0,[C:1]12([H:9])[C:2]([H:13])([H:14])[C@@:6]([C:3]([N:4]([H:10])[H:11])=[O:8])([H:15])[C@:5]1([H:12])[O:7]2>>[C:1]1([C:3]([N:4]([H:10])[H:11])=[O:8])([H:9])[C:2]([H:13])([H:14])[C:6]([H:15])=[C:5]([H:12])[O:7]1,38.675962500014975
MR_38405_1,[C:1]([C:2]([H:10])([H:11])[H:12])([C:3](=[C:4]([H:13])[H:14])[O:6][H:8])([O:5][H:7])[H:9]>>[C:1](\[C:2]([H:10])([H:11])[H:12])(=[C:3](/[C:4]([O:5][H:7])([H:13])[H:14])[O:6][H:8])[H:9],67.28306000001922
MR_367887_0,[C:1](/[C:5](=[C:2](\[N:3]([H:7])[H:8])[C:4](=[O:6])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:5]1([H:10])[C:2]([N:3]([H:7])[H:8])=[C:4]([H:9])[O:6]1)([H:11])([H:12])[H:13],60.101949999958464
MR_355436_0,[C:1]([C:2](=[C:4](\[O:6][H:8])[H:11])/[C:5](=[N:7]\[N:3]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]1=[C:5]([H:12])[N:7]([N:3]([H:9])[H:10])[C@@:4]1([O:6][H:8])[H:11])([H:13])([H:14])[H:15],37.99449749998772
MR_240064_0,[C:1]([C:2]([N:6]([H:12])[H:13])([O:7][H:8])[H:9])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[N:5]([H:10])[H:11]>>[C:1]([C:2]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:9])([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[O:7][H:8],72.63438000002708
MR_483971_0,[C:1]([C:4]([C:2]([H:15])([H:16])[H:17])=[C:3]([O:6][H:10])[O:7][H:9])(/[C:5](=[N:8]\[H:11])[H:14])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:4]([C:2]([H:15])([H:16])[H:17])([C:3]([O:6][H:10])([O:7][H:9])[H:14])/[C:5]1=[N:8]/[H:11],68.65477500001589
